US09029560B2
Preparation of tert-butyl ethyl(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)carbamate (CB64)
The title compound was prepared as described in Example 102 using tert-butyl 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethylcarbamate (C50) and iodoethane and isolated as a yellow oil (0.175 g, 100%): 1H NMR (400 MHz, CDCl3) δ 8.56 (s, 1H), 8.16-8.06 (m, 2H), 7.89-7.73 (m, 2H), 7.45-7.36 (m, 2H), 7.31 (s, 2H), 3.42 (s, 2H), 3.23 (t, J=35.4 Hz, 2H), 2.96-2.84 (m, 2H), 1.47 (s, 9H), 1.08 (s, 3H); 19F NMR (376 MHz, CDCl3) δ −58.03; ESIMS m/z 477 ([M+H]+).

reactant | tert-butyl 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethylcarbamate | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(CCNC(OC(C)(C)C)=O)C=C1)(F)F | C22H23F3N4O3
reactant | iodoethane | ICC | C2H5I
product | tert-butyl ethyl(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)carbamate | C(C)N(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C24H27F3N4O3
